US07816526B2
Synthesis of 6-ethylthio-2-trifluoromethylimidazo[1,2-b]pyridazin-3-ylsulfonamide
6-Chloro-2-trifluoromethylimidazo[1,2-b]pyridazin-3-ylsulfonamide (1.00 g, 3.33 mmol) was suspended in t-butyl alcohol (20.0 ml) and stirred at room temperature, during which potassium t-butoxide (80%, 1.40 g, 9.98 mmol) and ethanethiol (0.54 ml, 7.29 mmol) were added thereto. After the mixture was heated for 4 hours under reflux, the reaction solution was left and cooled to room temperature, poured into ice-water (200 ml) and adjusted to pH 3. The precipitated crystals were filtered and washed with water to give the title compound as colorless crystals. The yield was 0.54 g (50.0%).

reactant | 6-Chloro-2-trifluoromethylimidazo[1,2-b]pyridazin-3-ylsulfonamide | 3.33 mmol, 1.00 g | ClC=1C=CC=2N(N1)C(=C(N2)C(F)(F)F)S(=O)(=O)N | C7H4ClF3N4O2S
reactant | potassium t-butoxide | 9.98 mmol, 1.40 g | CC(C)([O-])C.[K+]
reactant | ethanethiol | 7.29 mmol, 0.54 ml | C(C)S | C2H6S
solvent | t-butyl alcohol | 20.0 ml | C(C)(C)(C)O | C4H10O
product | 6-ethylthio-2-trifluoromethylimidazo[1,2-b]pyridazin-3-ylsulfonamide | C(C)SC=1C=CC=2N(N1)C(=C(N2)C(F)(F)F)S(=O)(=O)N | C9H9F3N4O2S2
